US05393767
(+) 3-(1,2,4-triazol-1-yl)-1-azabicyclo[2.2.2]octane (Compound 1)
To a solution of (±)3-methanesulphonyloxy-1-azabiyclo[2.2.2]octane (1.3 g; 6.3 mmol) in dry DMF (20 mL) was added 1,2,4-triazole, sodium salt (1.5 g; 21 mmol). The resulting mixture was refluxed for 2 hours. The reaction mixture was cooled to room temperature and concentrated to dryness. The residue was taken up into 1M Na2CO3 and extracted into CH2Cl2 (3×50 mL). The organics were combined, dried (Na2SO4), filtered, and evaporated to yield 0.57 g of a crude yellow oil. MPLC (Al2O3 ; 2% MeOH/CH2Cl2) provided two fractions, the first containing a byproduct and the second containing the triazole. Yield 300 mg (27%).

reactant | octane | 6.3 mmol, 1.3 g | CCCCCCCC | C8H18
reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
reactant | sodium | 21 mmol, 1.5 g | [Na] | Na
reactant | triazole | N1N=NC=C1 | C2H3N3
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | (+) 3-(1,2,4-triazol-1-yl)-1-azabicyclo[2.2.2]octane | N1(N=CN=C1)C1CN2CCC1CC2 | C9H14N4
